US08633183B2
A-3) 6-Trifluoromethyl-5-iodo-pyridin-2-ylamine
The title compound is synthesized according to general procedure GP1 starting from 4.8 g (30 mmol) 6-trifluoromethyl-pyridin-2-ylamine and 6.7 g (30 mmol) NIS. Yield after precipitation from the reaction mixture and isolation of additional product from the mother liquid by chromatography in silica gel: 5.73 g (67%).

reactant | 6-trifluoromethyl-pyridin-2-ylamine | 30 mmol, 4.8 g | FC(C1=CC=CC(=N1)N)(F)F | C6H5F3N2
reactant | NIS | 30 mmol, 6.7 g | C1CC(=O)N(C1=O)I | C4H4INO2
product | 6-Trifluoromethyl-5-iodo-pyridin-2-ylamine | FC(C1=C(C=CC(=N1)N)I)(F)F | C6H4F3IN2
